US05864039
4-Amino-5-chloro-2-methoxy-N-((1-(5-(1-naphthylmethylamino)pentyl)-piperidin-4-yl)methyl)benzamide (1.43 g) as starting compound, acetaldehyde (0.16 ml) and sodium cyanoborohydride (0.38 g) were reacted and treated in the same manner as in Example 136 to give 0.75 g of 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(1-naphthylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-((1-(5-(1-naphthylmethylamino)pentyl)-piperidin-4-yl)methyl)benzamide | 1.43 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=CC3=CC=CC=C23)C=C1Cl)OC | C30H39ClN4O2
reactant | acetaldehyde | 0.16 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.38 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(1-naphthylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 0.75 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC2=CC=CC3=CC=CC=C23)CC)C=C1Cl)OC | C32H43ClN4O2
